US09370515B2
Preparation of 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)benzo[b]thiophen-7-ol
To a solution of 6-chloro-3-(7-methoxybenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine (103 mg, 0.326 mmol, 1.0 equiv) in dichloromethane at −78° C. was added boron tribromide (2.27 mL, 1.0 M solution in dichloromethane, 7.0 equiv). The reaction mixture was stirred at the reduced temperature for 10 min then warmed to room temperature and stirred for 15 h. Methanol (2 mL) was added to quench the reaction and extracted with dichloromethane. Purification by column chromatography using 5% methanol in dichloromethane elution gave 70 mg of the yellow solid, 70%.

reactant | 6-chloro-3-(7-methoxybenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine | 0.326 mmol, 103 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC1=C(S2)C(=CC=C1)OC | C15H10ClN3OS
reactant | boron tribromide | 1.0 M, 2.27 mL, 7.0 equiv | B(Br)(Br)Br | BBr3
reactant | Methanol | 2 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)benzo[b]thiophen-7-ol | 70 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC1=C(S2)C(=CC=C1)O | C14H8ClN3OS
